US04772600
N-[3-[(2-Pyridinylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester
Under a nitrogen atmosphere, triethylamine (0.30 mole) and a solution of freshly prepared acid chloride of 2-pyridine carboxylic acid (0.150 mole), obtained by heating at reflux 2-pyridine carboxic acid and excess thionyl chloride in benzene and then azeotropic distillation with benzene, in dry tetrahydrofuran (50 ml) were added simultaneously (dropwise) to a stirred and chilled (10°-20° C.) solution of freshly prepared N-(3-amino-2-pyridinyl)glycine ethyl ester prepared by reducing N-(3-nitro-2-pyridinyl)glycine ethyl ester (0.106 mole) in 200 ml of dry tetrahydrofuran. The reaction mixture was stirred overnight at room temperature and was filtered. The filtrate was concentrated in vacuo and dissolved in ethyl acetate (250 ml). The solution was washed with saturated sodium bicarbonate solution (3×75 ml), water (2×75 ml), dried over anhydrous sodium sulfate, and concentraed in vacuo. The residue was crystallized from isopropyl ether-tetrahydrofuran giving 26.5 g (83%). A 3.0-g sample was twice recrystallized from isopropyl ether-tetrahydrofuran to give 2.4 g of a white needles, mp 98°-100° C.

reactant | 2-pyridine carboxic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N-(3-nitro-2-pyridinyl)glycine ethyl ester | 0.106 mole | C(C)OC(CNC1=NC=CC=C1[N+](=O)[O-])=O | C9H11N3O4
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-[3-[(2-Pyridinylcarbonyl)amino]-2-pyridinyl]glycine ethyl ester | 2.4 g | C(C)OC(CNC1=NC=CC=C1NC(=O)C1=NC=CC=C1)=O | C15H16N4O3
